US07037914B2
2-(3-(2-(5-methyl-2-phenyloxazol-4-yl)ethylthio)phenyl)acetic acid.
2-(5-methyl-2-phenyloxazol-4-yl)ethylbromide (136 mg) and 3-mercaptophenylacetic acid.methyl ester (78 mg) were dissolved in acetonitrile (5 ml) and thereto was added potassium carbonate and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into ice water and the mixture was extracted with ether. The extract was washed with an aqueous solution of sodium hydroxide, water and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on silica gel (chloroform:ethyl acetate=200:1→50:1) to give the compound of the present invention (92 mg) having the following physical data.

reactant | 2-(5-methyl-2-phenyloxazol-4-yl)ethylbromide | 136 mg | CC1=C(N=C(O1)C1=CC=CC=C1)CCBr | C12H12BrNO
reactant | 3-mercaptophenylacetic acid | SC=1C=C(C=CC1)CC(=O)O | C8H8O2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-(3-(2-(5-methyl-2-phenyloxazol-4-yl)ethylthio)phenyl)acetic acid | CC1=C(N=C(O1)C1=CC=CC=C1)CCSC=1C=C(C=CC1)CC(=O)O | C20H19NO3S
